US04090025
1-(2-methoxyethyl)-3-acetyl-4-phenyl-4-imidazolin-2-one
Approximately 21.8 g of 1-(2-methoxyethyl)-4-phenyl-4-imidazolin-2-one and 120 ml. of acetic anhydride is refluxed together for four hours. The acetic anhydride is distilled out at reduced pressure. The residual semisolid is recrystallized from ether to yield the title compound as a white solid; m.p. 73°-75° C.

reactant | 1-(2-methoxyethyl)-4-phenyl-4-imidazolin-2-one | 21.8 g | COCCN1C(NC(=C1)C1=CC=CC=C1)=O | C12H14N2O2
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | 1-(2-methoxyethyl)-3-acetyl-4-phenyl-4-imidazolin-2-one | COCCN1C(N(C(=C1)C1=CC=CC=C1)C(C)=O)=O | C14H16N2O3
